* Z:\Google Drive\11_semestre\Lab_electronica\Proyecto\Fuente_LabElectronica\Fuente_v1.asc
D10 N003 N001 MURS320
D11 N010 N001 MURS320
D12 N006 N010 MURS320
D13 N006 N003 MURS320
L1 N003 0 1µ
L2 0 N010 1µ
L3 N002 0 380µ
V1 N002 0 SINE(0 311 50) Rser=0.0001
XU1 N001 N005 N004 LM317 LM317
XU2 N005 N007 V+ LM317 LM317
D1 V+ N001 MURS320
R3 V+ N007 240
D4 N007 V+ MURS320
C1 N007 0 10µ
R4 N007 N009 {Rd}
D5 0 N011 MURS320
D6 N011 N009 MURS320
C2 V+ 0 100µ
V2 base 0 -10
R6 N005 N004 5
D2 N005 P001 MURS320
D3 P001 N008 MURS320
C3 N005 0 100µ
J1 N009 base base 2N3819
J2 N008 base base 2N3819
XU3 N006 N014 N013 LM317 LM317
XU4 N014 N015 N012 LM317 LM317
D7 N006 N012 MURS320
R1 N012 N015 240
D8 N012 N015 MURS320
C4 N015 0 10µ
R2 N015 N017 {Rd}
D9 N018 0 MURS320
D14 N017 N018 MURS320
C5 N012 0 1m
R5 N014 N013 5
D15 P002 N014 MURS320
D16 N016 P002 MURS320
C6 N014 0 100µ
J3 N017 base2 base2 2N3819
J4 N016 base2 base2 2N3819
R7 V- N012 2k
R8 0 V- 8k
V3 base2 0 4.2
.model D D
.lib C:\Users\javierbisbal\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\javierbisbal\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc MURS320T3.LIB
K L3 L1 L2 1
.tran 0.5
.param Rd=1
.lib LM317.sub
.backanno
.end
