* Z:\Google Drive\11_semestre\Lab_electronica\Proyecto\Fuente_LabElectronica\Fuente_v1.asc
D10 N004 N001 MURS320
D11 N012 N001 MURS320
D12 N009 N012 MURS320
D13 N009 N004 MURS320
L1 N004 0 1µ
L2 0 N012 1µ
L3 N003 0 380µ
V1 N003 0 SINE(0 311 50) Rser=0.0001
D1 N002 N001 MURS320
R3 N002 N008 240
D4 N008 N002 MURS320
C1 N008 0 10µ
R4 N008 N011 {Rd}
D5 0 N013 MURS320
D6 N013 N011 MURS320
C2 N002 0 100µ
V2 base 0 -10
R6 N006 N005 1.25
D2 N006 P001 MURS320
D3 P001 N010 MURS320
C3 N006 0 100µ
J1 N011 base base 2N3819
J2 N010 base base 2N3819
D7 N009 N014 MURS320
R1 N014 N017 240
D8 N014 N017 MURS320
C4 N017 0 10µ
R2 N017 N020 {Rd}
D9 N021 0 MURS320
D14 N020 N021 MURS320
C5 N014 0 1m
R5 N016 N015 1.25
D15 P002 N016 MURS320
D16 N019 P002 MURS320
C6 N016 0 100µ
J3 N020 base2 base2 2N5486
J4 N019 base2 base2 2N3819
R7 V- N014 2k
R8 0 V- 8k
V3 base2 0 -10
XU3 N009 N018 N015 LM337
XU4 N016 N017 N014 LM337
XU1 N001 N007 N005 LM317/TI
XU2 N006 N008 N002 LM317/TI
R9 N016 N018 {R_limit*1k}
R10 N019 N018 {1k*(1-R_limit)}
R11 N006 N007 {R_limit*1k}
R12 N010 N007 {1k*(1-R_limit)}
R13 V+ N002 0.0001
.model D D
.lib C:\Users\javierbisbal\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\javierbisbal\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc MURS320T3.LIB
K L3 L1 L2 1
.tran 1
.param Rd= 240*12
.param R_limit = 0.5
.lib LM317-TI.sub
.lib LM337.sub
.backanno
.end
