* C:\Users\lakat\Documents\GitHub\Fuente_LabElectronica\Fuente_v1.asc
D10 N004 N001 MURS320
D11 N012 N001 MURS320
D12 N007 N012 MURS320
D13 N007 N004 MURS320
L1 N004 0 1µ
L2 0 N012 1µ
L3 N003 0 380µ
V1 N003 0 SINE(0 311 50) Rser=0.0001
D1 N002 N001 MURS320
R3 N002 N008 240
D4 N008 N002 MURS320
C1 N008 0 10µ
R4 N008 N011 {Rd}
D5 0 N013 MURS320
D6 N013 N011 MURS320
C2 N002 0 100µ
V2 base 0 -10
R6 N006 N005 1.25
D2 N006 P001 MURS320
D3 P001 N010 MURS320
C3 N006 0 100µ
J1 N011 base base 2N3819
J2 N010 base base 2N3819
D7 N007 V- MURS320
R1 V- N016 240
D8 V- N016 MURS320
C4 N016 0 10µ
R2 N016 N019 {Rd}
D9 N020 0 MURS320
D14 N019 N020 MURS320
C5 V- 0 1m
R5 N015 N014 1.25
D15 P002 N015 MURS320
D16 N018 P002 MURS320
C6 N015 0 100µ
J3 N019 base2 base2 2N5486
J4 N018 base2 base2 2N3819
V3 base2 0 -10
XU3 N007 N017 N014 LM337
XU4 N015 N016 V- LM337
R9 N015 N017 {R_limit*1k}
R10 N018 N017 {1k*(1-R_limit)}
R11 N006 N009 {R_limit*1k}
R12 N010 N009 {1k*(1-R_limit)}
R13 V+ N002 0.0001
XU5 N006 N008 N002 LM317 LM317
XU6 N001 N009 N005 LM317 LM317
.model D D
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc MURS320T3.LIB
K L3 L1 L2 1
.tran 1
.param Rd= 240*12
.param R_limit = 0.5
.lib LM317.sub
.lib LM337.sub
.backanno
.end
